US07148357B2
193 mg (0.5 mmol) of 2-[(2-amino-pyridin-4-ylmethyl)-amino]-N-(3-trifluoromethyl-phenyl)-benzamide is mixed in 20 ml of dichloromethane with 0.21 ml (1.5 mmol) of triethylamine, and it is mixed at room temperature drop by drop with a solution of 93 mg (0.6 mmol) of succinic acid dichloride in 3 ml of methylene chloride. After stirring overnight at room temperature, it is diluted with methylene chloride and washed in succession with water, saturated sodium bicarbonate solution and saturated common salt solution. Then, the organic phase is dried, filtered and concentrated by evaporation. The residue is chromatographed on Isolute (Separtis Company) with a gradient of methylene chloride:ethanol=100:0 to 95:5. 120 mg (51% of theory) of 2-{[2-(2,5-dioxo-pyrrolidin-1-yl)-pyridin-4-ylmethyl]-amino}-N-(3-trifluoromethyl-phenyl)-benzamide is obtained.

reactant | 2-[(2-amino-pyridin-4-ylmethyl)-amino]-N-(3-trifluoromethyl-phenyl)-benzamide | 0.5 mmol, 193 mg | NC1=NC=CC(=C1)CNC1=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC=C1 | C20H17F3N4O
reactant | triethylamine | 1.5 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | succinic acid dichloride | 0.6 mmol, 93 mg | C(CCC(=O)Cl)(=O)Cl | C4H4Cl2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-{[2-(2,5-dioxo-pyrrolidin-1-yl)-pyridin-4-ylmethyl]-amino}-N-(3-trifluoromethyl-phenyl)-benzamide | 120 mg, 51% | O=C1N(C(CC1)=O)C1=NC=CC(=C1)CNC1=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC=C1 | C24H19F3N4O3
